datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[S:1])([H:2])[H:3].[C:4]([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])([H:11])[H:12]>>[C:0](=[S:1])[H:3].[H:2][C:4]([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])([H:11])[H:12],124.148
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]=[S:19])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])=[S:19],42.6768
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:4])[H:5],18.828
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],36.8192
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[H:12])([H:11])[O:17][O:18])([H:9])[H:10])([H:6])([H:7])[H:8],0.0
[C:14]([H:15])([H:16])[H:17].[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8]>>[H:8][C:14]([H:15])([H:16])[H:17].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],10.29264
[C:0]([C:1]1([H:10])[C:2]([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:7])([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:8])[H:9],212.5472
[C:0](=[S:1])([H:2])[H:3].[H:4]>>[C:0]([S:1])([H:2])([H:3])[H:4],2.5104
[N:0]([N:1]([O:2])[H:5])([H:3])[H:4]>>[H:5].[N:0]([N:1]=[O:2])([H:3])[H:4],188.083352
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:5])[H:6],18.6188
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[S:6]=[C:7]([C:8]([S:9][H:12])[H:11])[H:10]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:8]([C:7](=[S:6])[H:10])([S:9][H:12])[H:11],176.732
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[I:20]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])([H:12])[I:20])([H:9])([H:10])[H:11],0.0
[C:0]([C:1]([O:2][H:12])([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([O:6][O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][H:12])[C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([O:6][O:7][H:11])[H:15])([H:13])[H:14])([H:8])([H:9])[H:10],64.4336
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])([H:3])[H:4],75.061
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10][O:11]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:10][O:11],170.2888
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:18]([C:17]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])[H:10])[H:9])([H:7])[H:8],32.426
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:25])([H:26])[H:27])([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])[H:7],43.8483
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][C:11]([H:12])([H:13])[H:14],29.932336
